US05393875
1.03 g (2.83 mmol) of HBTU and 0.39 ml (2.83 mmol) of triethylamine were added to a solution of 820 mg (2.83 mmol) of N-[(benzyloxy)carbonyl]-3-(pyrazol-1-yl)-L-alanine [J. Am. Chem. Soc. 107, 7105 (1985)]and 644 mg (2.83 mmol) of (1S,2R,3S)-3-amino-4-cyclohexyl-1-cyclopropyl-1,2-butanediol in 28 ml of acetonitrile and the mixture was stirred at room temperature overnight. The crystals obtained after filtration were dissolved in 30 ml of ethanol and hydrogenated at 400 for two hours. Filtration over diatomaceous earth and evaporation under reduced pressure yielded 670 mg of (S)-α-amino-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-3-(pyrazol-1-yl)propionamide, MS: 365 (M+H)+, as a colourless foam.

reactant | HBTU | 2.83 mmol, 1.03 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 2.83 mmol, 0.39 ml | C(C)N(CC)CC | C6H15N
reactant | N-[(benzyloxy)carbonyl]-3-(pyrazol-1-yl)-L-alanine | 2.83 mmol, 820 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CN1N=CC=C1)C(=O)O | C14H15N3O4
reactant | (1S,2R,3S)-3-amino-4-cyclohexyl-1-cyclopropyl-1,2-butanediol | N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1 | C13H25NO2
solvent | acetonitrile | 28 ml | C(C)#N | C2H3N
product | (S)-α-amino-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-3-(pyrazol-1-yl)propionamide | 670 mg | N[C@H](C(=O)N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)CN1N=CC=C1 | C19H32N4O3
